US07795236B2
2′,3′,5′-Tris-O-(tert-butyldimethylsilyl)-8-(3′-hydroxy-biphenyl-4-ylmethylamino)adenosine
A mixture of 8-(3′-benzyloxybiphenyl-4-ylmethyl-amino)-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine (0.713 g) and 10% palladium on carbon (55.4 wt % H2O, 0.480 g) in ethyl acetate (11 mL) was stirred at room temperature for 23 hours under a hydrogen atmosphere. The insoluble material was filtered out and the filtrate was concentrated under reduced pressure to give the title compound (0.615 g).

reactant | 8-(3′-benzyloxybiphenyl-4-ylmethyl-amino)-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine | 0.713 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C=2N=CN=C(C2N1)N | C48H72N6O5Si3
catalyst | palladium on carbon | 0.480 g | [Pd] | Pd
solvent | ethyl acetate | 11 mL | C(C)(=O)OCC | C4H8O2
product | 2′,3′,5′-Tris-O-(tert-butyldimethylsilyl)-8-(3′-hydroxy-biphenyl-4-ylmethylamino)adenosine | 0.615 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=NC=2C(N)=NC=NC12)NCC1=CC=C(C=C1)C1=CC(=CC=C1)O | C41H66N6O5Si3
